US06835735B2
Preparation of (3,5-dimethylphenyl)-(7-methoxymethyl-[1,4]-dioxano[2,3-g]quinazolin-4-yl)-amine
The titled compound (10 mg, 29%, m.p. 268-270° C.) was prepared in a similar manner as in Example 8, except for employing 4-chloro-7-methoxymethyl-[1,4]dioxano[2,3-g]quinazoline (26 mg, 0.1 mmol) and 3,5-dimethylaniline (24 mg, 0.2 mmol).

reactant | 4-chloro-7-methoxymethyl-[1,4]dioxano[2,3-g]quinazoline | 0.1 mmol, 26 mg | ClC1=NC=NC2=CC3=C(C=C12)OC(CO3)COC | C12H11ClN2O3
reactant | 3,5-dimethylaniline | 0.2 mmol, 24 mg | CC=1C=C(N)C=C(C1)C | C8H11N
product | (3,5-dimethylphenyl)-(7-methoxymethyl-[1,4]-dioxano[2,3-g]quinazolin-4-yl)-amine | 10 mg, 29% | CC=1C=C(C=C(C1)C)NC1=NC=NC2=CC3=C(C=C12)OC(CO3)COC | C20H21N3O3
